US05721245
1.09 g of di-t-butyl dicarbonate were added to a stirred solution of 890 mg of 8-aminomethyl-6,7,8,9-tetrahydropyrido[1,2-a]indole and 920 mg of triethylamine in 60 ml of dichloromethane at 0° C. under a nitrogen atmosphere. After 72 hours, the organic phase was washed with saturated sodium bicarbonate solution, dried and evaporated. The residue was crystallized from petroleum ether to give 1.03 g of 8-[(t-butoxyformamido)methyl]-6,7,8,9-tetrahydropyrido[1,2-a]indole of melting point 80°-85° C.

reactant | di-t-butyl dicarbonate | 1.09 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 8-aminomethyl-6,7,8,9-tetrahydropyrido[1,2-a]indole | 890 mg | NCC1CC=2N(C3=CC=CC=C3C2)CC1 | C13H16N2
reactant | triethylamine | 920 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 8-[(t-butoxyformamido)methyl]-6,7,8,9-tetrahydropyrido[1,2-a]indole | 1.03 g | C(C)(C)(C)OC(=O)NCC1CC=2N(C3=CC=CC=C3C2)CC1 | C18H24N2O2
